US05854227
The 7-azido-7-{[5-hydroxy-5,5-bis(dimethoxyphosphono)-1-pentylamino]-carbonyl}-3-carbamoyloxymethyl-3-cephem-4-carboxylic acid, obtained as described in Example 30, is hydrogenated at atmospheric pressure with hydrogen in the presence of platinum oxide as catalyst and gives 7-amino-7-{[5-hydroxy-5,5-bis(dimethoxyphosphono)-1-pentylamino]-carbonyl}-3-carbamoyloxymethyl-3-cephem-4-carboxylic acid. Reaction of the latter with 2-thienylacetyl chloride and pyridine yields 7-(2-thienyl-acetamido)-7-{[5-hydroxy-5,5-bis(dimethoxyphosphono)-1-pentylamino]-carbonyl}-3-carbamoyloxymethyl-3-cephem-4-carboxylic acid.

reactant | 7-azido-7-{[5-hydroxy-5,5-bis(dimethoxyphosphono)-1-pentylamino]-carbonyl}-3-carbamoyloxymethyl-3-cephem-4-carboxylic acid | N(=[N+]=[N-])C1([C@@H]2N(C(=C(CS2)COC(N)=O)C(=O)O)C1=O)C(=O)NCCCCC(P(=O)(OOC)OOC)(P(=O)(OOC)OOC)O | C19H30N6O17P2S
reactant | hydrogen | [H][H] | H2
catalyst | platinum oxide | [Pt]=O
product | 7-amino-7-{[5-hydroxy-5,5-bis(dimethoxyphosphono)-1-pentylamino]-carbonyl}-3-carbamoyloxymethyl-3-cephem-4-carboxylic acid | NC1([C@@H]2N(C(=C(CS2)COC(N)=O)C(=O)O)C1=O)C(=O)NCCCCC(P(=O)(OOC)OOC)(P(=O)(OOC)OOC)O | C19H32N4O17P2S
